US07476399B2
methyl 6-methoxynicotinate (2.097 g, 12.56 mmol) was dissolved in dioxane (30 mL). An aqueous solution of NaOH (1.0N, 25 mL) was added to the solution and the mixture was stirred at room temperature overnight. The solvent was removed under reduced pressure to provide 2.2 g of sodium 6-methoxynicotinate.

reactant | methyl 6-methoxynicotinate | 12.56 mmol, 2.097 g | COC1=NC=C(C(=O)OC)C=C1 | C8H9NO3
reactant | NaOH | 1.0N, 25 mL | [OH-].[Na+]
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | sodium 6-methoxynicotinate | 2.2 g | COC1=NC=C(C(=O)[O-])C=C1.[Na+] | InChI=1S/C7H7NO3.Na/c1-11-6-3-2-5(4-8-6)7(9)10;/h2-4H,1H3,(H,9,10);/q;+1/p-1
